US07323475B2
a. 4-Benzyloxy-1-isobutyl-isoquinoline-3-carboxylic acid butyl ester
A mixture of 4-Benzyloxy-1-bromo-isoquinoline-3-carboxylic acid butyl ester (207 mg, 0.5 mmol, see example D-86a), Pd(PPh3)4 (58 mg, 0.05 mmol), 2-methylpropylboronic acid (78 mg, 0.75 mmol), K2CO3 (207 mg, 1.5 mmol), and 1,4-dioxane (4 ml) was refluxed with stirring for 48 h. Subsequently, the mixture was concentrated in vacuo. To the residue was added water (5 ml) and the mixture was extracted with EtOAc (2×20 ml). The organic phase was dried over MgSO4 and evaporated in vacuo. Purification of the residue by flash column chromatography on silica gel using hexanes EtOAc=88 12 as the eluent gave the title compound as a yellowish oil (136 mg); MS-(+)-ion M+1=392.3.

reactant | 4-Benzyloxy-1-bromo-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)Br | C21H20BrNO3
reactant | 2-methylpropylboronic acid | 0.75 mmol, 78 mg | CC(CB(O)O)C | C4H11BO2
reactant | K2CO3 | 1.5 mmol, 207 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 4-Benzyloxy-1-isobutyl-isoquinoline-3-carboxylic acid butyl ester | 136 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)CC(C)C | C25H29NO3
